US08048899B2
tert-Butyldiphenylsilyl chloride (50.8 g, 184.6 mmol) is added at 0° C. to a solution of 1-bromo-4-hydroxy-3,3-dimethyl-butan-2-one (30.0 g, 153.8 mmol) and imidazole (26.0 g, 384.5 mmol). The reaction mixture is warmed to room temperature and stirred for 14 h. After adding ice water, the mixture is extracted with diethyl ether and the organic layer is dried over anhydrous Na2SO4. After filtration, removal of the solvent under reduced pressure affords the crude product that is purified by silica gel chromatography to afford 40.0 g of 1-bromo-4-(tert-butyl-diphenyl-silanyloxy)-3,3-dimethyl-butan-2-one as a light yellow liquid. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.94 (9H, s), 1.16 (6H, s), 3.61 (2H, s), 4.80 (s, 2H), 7.38-7.58 (10H, m).

reactant | tert-Butyldiphenylsilyl chloride | 184.6 mmol, 50.8 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | 1-bromo-4-hydroxy-3,3-dimethyl-butan-2-one | 153.8 mmol, 30.0 g | BrCC(C(CO)(C)C)=O | C6H11BrO2
reactant | imidazole | 384.5 mmol, 26.0 g | N1C=NC=C1 | C3H4N2
product | 1-bromo-4-(tert-butyl-diphenyl-silanyloxy)-3,3-dimethyl-butan-2-one | 40.0 g | BrCC(C(CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)(C)C)=O | C22H29BrO2Si
